US04448784
To a stirred solution, under nitrogen, of 17.6 g (0.150 mole) of indole in 100 ml of dry dimethylsulfoxide (DMSO) was added 4.5 g (0.188 mole) of sodium hydride in portions over a 1.5 hour period. When no more bubbles of hydrogen were visible (4-5 hours), there was added dropwise a solution of 22.8 g (0.188 mole) of 3-fluorobenzonitrile in 25 ml of dry DMSO. When the addition was complete (1 hour) the mixture was stirred overnight (about 16 hours) and then 3 hours at 100° C. The cooled mixture was poured into 1.5 liters of a stirred water-ice mixture to precipitate a semi-solid. The supernatent was poured off and the coagulated material was washed several times more with water. It was then dissolved in 500 ml of dichloromethane, washed twice with dilute brine, dried over Na2SO4, and concentrated in vacuo to an oil. This material weighed 32 g (100% yield). A portion was distilled yielding 3-(1-indolyl)benzonitrile (160°/0.1 mm) in 75% overall yield. The product was a soft, crystalline material at room temperature, m.p. 33°-36° C.

reactant | indole | 0.150 mole, 17.6 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | sodium hydride | 0.188 mole, 4.5 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 3-fluorobenzonitrile | 0.188 mole, 22.8 g | FC=1C=C(C#N)C=CC1 | C7H4FN
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
product | 3-(1-indolyl)benzonitrile | 100% yield | N1(C=CC2=CC=CC=C12)C=1C=C(C#N)C=CC1 | C15H10N2
